US04845210
Imidazole (0.1 g) and tert-butyldimethylsilyl chloride (0.08 g) are added to a solution of the object compound (0.036 g) of Example 6 in DMF (5 ml) at 40° C. and the mixture is stirred at the same temperature for 2 hours and then poured into a mixture of ethyl acetate (50 ml) and water (30 ml). The organic layer is separated, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is dissolved in a mixture of tetrahydrofuran (7 ml) and water (2 ml), and stirred at 25° C. for 4 hours in the presence of a trace of concentrated sulfuric acid. The reaction mixture is poured into a mixture of ethyl acetate (50 ml) and water (30 ml) and the organic layer is separated, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. Thus obtained residue is dissolved in ethyl acetate (12 ml) and m-chloroperbenzoic acid (0.3 g) is added thereto. The mixture is stirred at room temperature for 2 days and then poured into a mixture of ethyl acetate (50 ml), saturated sodium bicarbonate solution (20 ml) and dimethyl sulfide (0.15 ml) followed by stirring. The organic layer is separated, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is subjected to silica gel column chromatography (eluent: 15% ethyl acetate-85% hexane) to give 0.012 g of (3R,4R)-4-acetoxy-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-2-azetidinone.

reactant | Imidazole | 0.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.08 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 30 ml | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (3R,4R)-4-acetoxy-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-2-azetidinone | 0.012 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
